US06476030B1
b) 2-(2-Ethyl-2H-[1,2,4]triazol-3-ylmethoxy)-7-(2-fluorophenyl)-3-(pyridin-4-yl)pyrazolo[1,5-d][1,2,4]triazine
This was prepared in 21% yield using a similar procedure to that described in Example 18 except using pyridine-4-boronic acid instead of 3-trifluoromethylbenzeneboronic acid and 3-bromo-2-(2-ethyl-2H-[1,2,4]triazol-3-ylmethoxy)-7-(2-fluorophenyl)pyrazolo[1,5-d][1,2,4]triazine instead of 3-bromo-7-(2-fluorophenyl)-2-(2-methyl-2H-[1,2,4]triazol-3-ylmethoxy)pyrazolo[1,5-d][1,2,4]triazine. Data for title compound: mp=214-217° C.; 1H NMR (360 MHz, CDCl3) δ 1.35 (3H, t, J=7.2 Hz), 4.12 (2H, q, J=7.2 Hz), 5.60 (2H, s), 7.31 (1H, t, J=9.2 Hz), 7.42 (1H, t, J=7.6 Hz), 7.62 (2H, d, J=6.0 Hz), 7.68 (1H, m), 7.82 (1H, m), 7.90 (1H, s), 8.72 (2H, d, J=5.6 Hz), 9.53 (1H, s); MS (ES+) m/e 417 [MH]+.

reactant | pyridine-4-boronic acid | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | 3-bromo-2-(2-ethyl-2H-[1,2,4]triazol-3-ylmethoxy)-7-(2-fluorophenyl)pyrazolo[1,5-d][1,2,4]triazine | BrC=1C(=NN2C(=NN=CC21)C2=C(C=CC=C2)F)OCC=2N(N=CN2)CC | C16H13BrFN7O
product | 2-(2-Ethyl-2H-[1,2,4]triazol-3-ylmethoxy)-7-(2-fluorophenyl)-3-(pyridin-4-yl)pyrazolo[1,5-d][1,2,4]triazine | 21% yield | C(C)N1N=CN=C1COC1=NN2C(=NN=CC2=C1C1=CC=NC=C1)C1=C(C=CC=C1)F | C21H17FN8O
